US05232944
2.1 g of 1,3-cyclopentanedione are dissolved in 200 ml of THF under N2, 650 mg of NaH (80% in mineral oil) are added, the mixture is stirred for 1 hour, a solution of 4.6 g of 2,2,3-trimethyl-3,4-epoxy-6-cyanochroman ("IIa") in 20 ml of THF, then 2.4 ml of BF3 etherate are added successively and the mixture is stirred overnight at 20°. The mixture is evaporated and the 2,2,3-trimethyl-4-(3-oxo-1-cyclopenten-1-yloxy)-6-cyano-3-chromanol ("A") obtained is purified by chromatography on silica gel (ethyl acetate/methanol 100:1); m.p. 204°-206° (from isopropanol).

reactant | 1,3-cyclopentanedione | 2.1 g | C1(CC(CC1)=O)=O | C5H6O2
reactant | NaH | 650 mg | [H-].[Na+]
reactant | 2,2,3-trimethyl-3,4-epoxy-6-cyanochroman | 4.6 g | CC1(OC2=CC=C(C=C2C2C1(O2)C)C#N)C | C13H13NO2
reactant | BF3 | 2.4 ml | B(F)(F)F | BF3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,2,3-trimethyl-4-(3-oxo-1-cyclopenten-1-yloxy)-6-cyano-3-chromanol | CC1(OC2=CC=C(C=C2C(C1(O)C)OC1=CC(CC1)=O)C#N)C | C18H19NO4
